US05795894
To a solution of 2-(3,4-dichlorophenyl)pyrazine (10 g, 44.43 mmol) in dry THF (150 ml) was added slowly a solution of DIBAL-H (1M in THF, 444.3 ml) through a dropping funnel at 10° C. under N2. The color of solution turned into red wine at the end of addition. The solution was gradually warmed up to room temperature overnight. After completion (checked by TLC) the reaction was quenched slowly by the addition of saturated Na2 SO4 solution until no more H2 evolved. White precipitate was formed after stirring for 1.0 h. The precipitate was filtered off, rinsed with THF, dried over MgSO4 and evaporated to dryness. The crude material (10 g) was purified by flash chromatography on 300 g of flash grade silica gel in 7.5 % NH3 -MeOH/CH2Cl2 to give 4.11 g (17.77 mmol, 40%) of 2-(3,4-dichloro-phenyl)piperazine. m.p. 74°-76° C.; FAB mass [M+1]+35Cl 231.

reactant | 2-(3,4-dichlorophenyl)pyrazine | 44.43 mmol, 10 g | ClC=1C=C(C=CC1Cl)C1=NC=CN=C1 | C10H6Cl2N2
reactant | DIBAL-H | 1M, 444.3 ml | CC(C)C[AlH]CC(C)C
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dichloro-phenyl)piperazine | 17.77 mmol, 4.11 g, 40% | ClC=1C=C(C=CC1Cl)C1NCCNC1 | C10H12Cl2N2
